US09376436B2
In dried glassware, 2.5M n-BuLi in hexanes (18.01 mL, 45.02 mmol) was added over 15 minutes to a stirred solution of 1-ethoxy-4-fluoro-5-iodo-2-methyl-benzene [CAS: 918813-06-6](9.7 g, 34.63 mmol) in dry THF (100 mL) at −78° C. under N2. After stirring for 30 mins, trimethyl borate (7.72 mL, 69.27 mmol) was added over 10 mins. The mixture was stirred for 3.25 h at −78° C. then quenched by slow addition of 1M HCl (115 ml). The mixture was warmed to ambient temperature, diluted with water (115 ml) and extracted with EtOAc (2×100 ml). The combined organic extracts were washed with saturated sodium metabisulfite soln (250 ml), brine (100 ml) and dried (MgSO4). The almost colourless solution was evaporated to a cream solid, dried rt/vac/1 h (wt=6.2 g). This solid was stirred with Et2O/iso-hexane (1:1) (40 ml) and filtered under suction and washed with the mixture then iso-hexane, dried rt/vac/overnight to give (5-ethoxy-2-fluoro-4-methyl-phenyl)boronic acid (D94) (4.0 g);

reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | 1-ethoxy-4-fluoro-5-iodo-2-methyl-benzene | 34.63 mmol, 9.7 g | C(C)OC1=C(C=C(C(=C1)I)F)C | C9H10FIO
reactant | trimethyl borate | 69.27 mmol, 7.72 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (5-ethoxy-2-fluoro-4-methyl-phenyl)boronic acid | 4.0 g | C(C)OC=1C(=CC(=C(C1)B(O)O)F)C | C9H12BFO3
